Name:  ___                        Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Coffee-ground emesis
 
Major Surgical or Invasive Procedure:
EGD ___
 
History of Present Illness:
Ms. ___ is a ___ ___ year old female with a PMH of 
HLD and osteoporosis who presented to the ED yesterday after 
experiencing two episodes of coffee ground emesis. GI was 
consulted, and recommended EGD for this morning. After being 
noted to have a hgb drop of nearly two grams, she was admitted 
to the ICU for further monitoring.

Per the family, she felt well yesterday morning, and ate a 
normal lunch. Afterwards, she felt nauseated and dizzy and had 
an episode of dark emesis. She took a nap, then vomited a larger 
amount of coffee-ground appearing emesis. The family took her 
blood pressure, which was lower than normal, and a pulse which 
was 110, so took her to the emergency department. The family 
saved some of the emesis and brought it to the ED with the 
patient, where it was found to be guaiac positive. 

Of note, her last dose of alendronate was taken on ___. Also, 
she was in ___ for one month prior to ___

In the ED, initial vitals:  
99.6 98 99/52 18 97% RA   

Labs were notable for:

___ @ 0000 11.1>11.___/33.7<162
N91.2% L3.1% M5.1%

___ @ 0335 10.1>9.6/29.3<144

___ 11.6 PTT 27.3 INR 1.1

138 | 99 | 18 /
--------------167
3.4 | 26 | 0.8\

LFTs wnl 

Imaging notable for: CXR No acute abnormalities

In the ED she received 1L NS and was put on a Protonix drip

On arrival to the MICU, the patient feels dizzy and has 
discomfort in her throat (not pain) but otherwise has no 
complaints. She denies CP, cough, SOB, abd pain, nausea or 
vomiting, diarrhea or constipation, hematochezia/melena, and 
dysuria/hematuria.
 
Past Medical History:
-Osteoporosis
-HLD
 
Social History:
___
Family History:
Has 2 healthy sons
 
Physical ___:
ADMISSION PHYSICAL EXAM:  
Vitals: 99.8 79 107/58 67 24 94%RA
GENERAL: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
NECK: supple, JVP not elevated, no LAD  
LUNGS: Clear to auscultation bilaterally, no wheezes, rales, 
rhonchi  
CV: Regular rate and rhythm, normal S1 S2, no murmurs, rubs, 
gallops  
ABD: soft, non-tender, non-distended, bowel sounds present, no 
rebound tenderness or guarding, no organomegaly  
EXT: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
SKIN: No rashes, lesions 
NEURO: Face symmetric, moving all four limbs appropriately

DISCHARGE PHYSICAL EXAM:
VS: 98.5 (max 99.4) 120/80 76 16 100%RA
Gen - sitting up in bed, comfortable appearing
Eyes - EOMI, anicteric
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - CTA bilaterally, no ronchi or wheezing
Abd - soft nontender, normoactive bowel sounds
Ext - no edema
Skin - area of erythema at LUE, well circumscribed, non-raised, 
within borders drawn yesterday evening
Vasc - 2+ DP/radial pulses
Neuro - AOx3, moving all extremities
Psych - appropriate

 
Pertinent Results:
ADMISSION
___ 12:00AM BLOOD WBC-11.1*# RBC-3.61* Hgb-11.3 Hct-33.7* 
MCV-93 MCH-31.3 MCHC-33.5 RDW-12.5 RDWSD-43.2 Plt ___
___ 12:00AM BLOOD Glucose-167* UreaN-18 Creat-0.8 Na-138 
K-3.4 Cl-99 HCO3-26 AnGap-16

DISHCARGE
___ 05:48AM BLOOD WBC-4.5 RBC-3.51* Hgb-10.9* Hct-33.0* 
MCV-94 MCH-31.1 MCHC-33.0 RDW-12.5 RDWSD-43.0 Plt ___
___ 05:48AM BLOOD Glucose-91 UreaN-10 Creat-0.6 Na-135 
K-3.6 Cl-103 HCO3-25 AnGap-11

___ EGD:
Mild erythema in the antrum consistent with mild gastritis. 
(biopsy)
Normal mucosa in the duodenum (biopsy)
Otherwise normal EGD to third part of the duodenum
No stigmata of recent bleed. Mild gastritis, but no definitive 
source of patient's bleed or anemia. 

___ GI Pathology
1 A. Antrum: Antral mucosa, unremarkable.
2 A. Duodenum:Duodenal mucosa, unremarkable. 

___ CXR
1. No acute cardiopulmonary process.
2. Mild cardiomegaly.
 
Brief Hospital Course:
This is a ___ year old ___ female with past medical 
history of osteoporosis and hyperlipidemia admitted ___ 
with coffee ground emesis, s/p EGD showing gastritis without 
active source of bleeding, stabilized on PPI, discharged home

# Gastritis / Acute GI Bleed / Acute blood loss anemia - Patient 
presented with coffee ground emesis, Hgb 10 (from baseline Hgb 
___ patient underwent endoscopy that showed gastritis 
without signs of acute bleeding.  Patient started on PPI and 
monitored with stable hemoglobin.  Biopsies returned within 
normal limits.  Given lack of source for patients anemia, GI 
recommended consideration of outpatient colonoscopy (if within 
goals of care).  Discharged with prescription for PPI, to 
continue for at least 8 weeks--can subsequently rediscuss if 
need to continue.  Discharge Hemoglobin 10.9. 

# Cough - patient presented reporting recent cough; chest exam 
and radiography without focal findings to suggest infection; 
suspected this to be viral upper respiratory infection; symptoms 
improved over course of admission. 

# Dermatitis - patient noted to have area of erythema at left 
upper extremity; patient reported this was at site of prior 
outpatient vaccination 1 week prior; described pruritis and mild 
pain; suspected this to be local dermatitis from vaccine and 
unlikely to be cellulitis; at time of discharge it had improved 
with respect to pain/pruritis per patient, as well as size on 
exam.  Patient's son took picture on his cell phone, will use as 
comparison at follow-up PCP ___. Discussed warning signs 
including fever, worsening pain that should prompt additional 
evaluation

# Hyperlipidemia - Continued home simvastatin
  
Transitional Issues
- Discharged home
- Can consider rechecking CBC for stability of Hgb
- Can consider outpatient colonoscopy for workup of her anemia 
(if does not improve over time, and if within patient's goals of 
care)
- Would continue PPI for at least 8 weeks, after which can 
discuss if patient needs to further continue
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Simvastatin 20 mg PO QPM 
2. Glucosamine (glucosamine sulfate) 500 mg oral BID 
3. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY 

 
Discharge Medications:
1. Simvastatin 20 mg PO QPM 
2. Calcium 500 + D (D3) (calcium carbonate-vitamin D3) 500 
mg(1,250mg) -125 unit oral DAILY 
3. Glucosamine (glucosamine sulfate) 500 mg oral BID 
4. Pantoprazole 40 mg PO Q12H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth twice a day Disp 
#*28 Tablet Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# Gastritis / GI Bleed / Acute blood loss anemia 
# Dermatitis
# Hypophosphatemia
# Hypokalemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
It was a pleasure caring for you at ___.  You were admitted 
after vomiting blood.  You were seen by GI specialists and 
underwent endoscopy that showed signs of stomach irritation.  
You were started on a medication to decrease your stomach acid 
to help your stomach heal and prevent future bleeding. 

You also had a cough.  You underwent an xray and exam that was 
not concerning for pneumonia.  Your cough is most likely from a 
viral infection ("a cold") that is now resolving. 

You also had an area of redness around your recent vaccination 
site.  You were seen by doctors and ___ did not 
worsen.  This is most likely an area of irritation from your 
recent shot.  If it gets worse, becomes more painful, or you 
develop fevers, please seek medical attention.

Please discuss with your primary care doctor whether or not you 
should have a colonoscopy. 
 
Followup Instructions:
___